US07812045B2
To a solution of 3-methyl-1H-indazol-4-ol (0.13 g, 0.90 mmol) in N,N-dimethylformamide (10 ml) was added imidazole (0.31 g, 4.52 mmol) and tert-butyldimethylchlorosilane (0.16 g, 1.04 mmol) at 0° C. Following stirring at room temperature for 12 hours and the addition of distilled water (10 ml), the reaction mixture was extracted three times with ethyl acetate, washed with distilled water and brine, dried over magnesium sulfate, filtered, and concentrated using vacuum evaporation. The crude product was purified by chromatography on silica gel to give 0.21 g of 4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indazole (Yield 89%).

reactant | 3-methyl-1H-indazol-4-ol | 0.90 mmol, 0.13 g | CC1=NNC=2C=CC=C(C12)O | C8H8N2O
reactant | imidazole | 4.52 mmol, 0.31 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 1.04 mmol, 0.16 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indazole | 0.21 g, Yield 89% | C(C)(C)(C)[Si](OC1=C2C(=NNC2=CC=C1)C)(C)C | C14H22N2OSi
